US05053052
Preparation of 4-amino-2-[(β-hydroxyethylthio)-methyl]phenol
0.085 moles (19.5 g) of 4-nitro-2-[(β-hydroxyethylthio)methyl]phenol are added to a solution of 16 g of sodium hydroxide (NaOH) pellets in 135 ml of water, followed portionwise, so as to maintain the temperature between 70° C. and 75° C., by 55 g of sodium hydrosulphite. After the end of addition stirring is continued for 20 minutes at 75° C. After cooling, the expected product is precipitated by neutralizing the reaction mixture with acetic acid. After filtering off, followed by washing with water and drying, the product obtained is recrystallized from acetonitrile. It melts at 121° C.

reactant | 4-nitro-2-[(β-hydroxyethylthio)methyl]phenol | 0.085 moles, 19.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)CSCCO | C9H11NO4S
reactant | sodium hydroxide | 16 g | [OH-].[Na+]
reactant | sodium hydrosulphite | 55 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 135 ml | O | H2O
product | 4-amino-2-[(β-hydroxyethylthio)-methyl]phenol | NC1=CC(=C(C=C1)O)CSCCO | C9H13NO2S
